US05801182
This example is a method of synthesis for inventive compound no. 3506 (see above for chemical name and structure). A mixture of theobromine (1.0 g, 5.5 mmol, available from Sigma) and 50% sodium hydride in oil (264 mg, 5.5 mmol) in dimethylsulfoxide (20 ml) was stirred for 50 minutes and then 6-bromo-1-hexanol (1.0 g, 5.5 mmol, available from Aldrich) was added. After stirring for 18 hours, the solution was treated with water (50 ml) and then extracted with two 25 ml aliquots of hexanes. The aqueous phase was extracted with three 35 ml aliquots of 25% ethanol-dichloromethane. The combined ethanol-dichloromethane extracts were dried over magnesium sulfate. The solvents were then evaporated under vacuum and remaining dimethylsulfoxide was removed by distillation under full pump vacuum, leaving 1.4 g of a white powder, 1-(6-hydroxyhexyl)-3,7-dimethylxanthine (5.0 mmol, 91% yield).

reactant | theobromine | 5.5 mmol, 1.0 g | N1C(=O)N(C)C=2N=CN(C)C2C1=O | C7H8N4O2
reactant | sodium hydride | [H-].[Na+]
reactant | 6-bromo-1-hexanol | 5.5 mmol, 1.0 g | BrCCCCCCO | C6H13BrO
reactant | water | 50 ml | O | H2O
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 1-(6-hydroxyhexyl)-3,7-dimethylxanthine | 5.0 mmol, 91% yield | OCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C | C13H20N4O3
